data/polar.json
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[N:1]1([S:5][C:16]([F:6])([F:7])[F:8])[S:4](=[O:22])(=[O:23])[c:10]2[c:26]([cH:24][cH:13][cH:28][cH:32]2)[C:29]1=[O:17].[cH:2]1[c:27]([CH:14]=[C:18]2[S:11][c:21]3[cH:19][cH:12][cH:15][cH:9][c:20]3[N:34]2[CH3:25])[cH:3][cH:31][cH:33][cH:30]1>>[N:1]1=[C:29]([O-:17])[c:26]2[c:10]([cH:32][cH:28][cH:13][cH:24]2)[S:4]1(=[O:22])=[O:23].[cH:2]1[c:27]([CH:14]([S:5][C:16]([F:6])([F:7])[F:8])[c:18]2[s:11][c:21]3[cH:19][cH:12][cH:15][cH:9][c:20]3[n+:34]2[CH3:25])[cH:3][cH:31][cH:33][cH:30]1", "epd": [["LP-/Pi+", [34], [18, 34]], ["Pi-/Sigma+", [14, 18], [14, 5]], ["Sigma-/Pi+", [5, 1], [1, 29]], ["Pi-/LP+", [29, 17], [17]]]}
{"reaction_name": "General nucleophilic 1,2-addition to a neutral carbonyl", "rsmi": "[CH2:1]1[N:15]2[CH2:2][CH2:19][N:8]([CH2:39][c:10]3[cH:21][cH:25][cH:31][cH:26][cH:22]3)[c:29]3[c:13]2[c:28]([cH:16][n:14][cH:17]3)[N:7]([CH2:38][c:9]2[cH:20][cH:24][cH:30][cH:27][cH:23]2)[CH2:18]1.[Cl:3][C:34]1=[C:36]([Cl:32])[C:6](=[O:12])[C:5](=[O:11])[C:37]([Cl:33])=[C:35]1[Cl:4]>>[CH2:1]1[N+:15]2=[C:13]3[C:28](=[CH:16][N:14]([C:5]4([O-:11])[C:6](=[O:12])[C:36]([Cl:32])=[C:34]([Cl:3])[C:35]([Cl:4])=[C:37]4[Cl:33])[CH:17]=[C:29]3[N:8]([CH2:39][c:10]3[cH:21][cH:25][cH:31][cH:26][cH:22]3)[CH2:19][CH2:2]2)[N:7]([CH2:38][c:9]2[cH:20][cH:24][cH:30][cH:27][cH:23]2)[CH2:18]1", "epd": [["LP-/Pi+", [15], [13, 15]], ["Pi-/Pi+", [28, 13], [16, 28]], ["Pi-/Sigma+", [14, 16], [14, 5]], ["Pi-/LP+", [5, 11], [11]]]}
{"reaction_name": "Silyl chloride alcohol substitution", "rsmi": "[Cl:2][Si:8]([CH3:5])([CH3:6])[CH3:7].[O:1]([CH2:4][CH3:3])[H:9]>>[Cl:2][H:9].[O:1]([CH2:4][CH3:3])[Si:8]([CH3:5])([CH3:6])[CH3:7]", "epd": [["LP-/Sigma+", [1], [1, 8]], ["Sigma-/LP+", [2, 8], [2]], ["LP-/Sigma+", [2], [2, 9]], ["Sigma-/LP+", [1, 9], [1]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[CH3:3][CH:14]([CH3:4])[N+:19]1=[N:22][N:18]([CH:5]([CH3:25])[CH3:26])[C:28](=[CH2:17])[C-:7]1[C:13]([CH3:30])([CH3:31])[CH3:32].[N:1]1([S:6][C:15]([F:8])([F:9])[F:10])[S:2](=[O:20])(=[O:21])[c:11]2[c:24]([cH:23][cH:12][cH:27][cH:33]2)[C:29]1=[O:16]>>[CH3:3][CH:14]([CH3:4])[n+:19]1[c:7]([C:13]([CH3:30])([CH3:31])[CH3:32])[c:28]([CH2:17][S:6][C:15]([F:8])([F:9])[F:10])[n:18]([CH:5]([CH3:25])[CH3:26])[n:22]1.[N:1]1=[C:29]([O-:16])[c:24]2[c:11]([cH:33][cH:27][cH:12][cH:23]2)[S:2]1(=[O:20])=[O:21]", "epd": [["LP-/Pi+", [7], [28, 7]], ["Pi-/Sigma+", [17, 28], [17, 6]], ["Sigma-/Pi+", [6, 1], [1, 29]], ["Pi-/LP+", [29, 16], [16]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[NH:1]1[CH:9]([C:31](=[O:12])[O-:27])[CH2:17][CH2:28][CH2:10]1.[O:2]=[S:32](=[O:3])([c:18]1[cH:5][cH:13][c:22]([CH3:33])[cH:14][cH:6]1)[n:23]1[cH:16][c:20]([N+:19](=[O:7])[O-:8])[c:21]2[cH:11][cH:25][c:15]([N+:30](=[O:26])[O-:29])[cH:4][c:24]21>>[NH+:1]1([CH:16]2[C:20](=[N+:19]([O-:7])[O-:8])[c:21]3[cH:11][cH:25][c:15]([N+:30](=[O:26])[O-:29])[cH:4][c:24]3[N:23]2[S:32](=[O:2])(=[O:3])[c:18]2[cH:5][cH:13][c:22]([CH3:33])[cH:14][cH:6]2)[CH:9]([C:31](=[O:12])[O-:27])[CH2:17][CH2:28][CH2:10]1", "epd": [["LP-/Sigma+", [1], [1, 16]], ["Pi-/Pi+", [16, 20], [20, 19]], ["Pi-/LP+", [19, 7], [7]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[C:1]([O:14][C:29](=[O:11])[N:25]=[CH:13][c:8]1[cH:3][cH:17][cH:24][cH:18][cH:4]1)([CH3:26])([CH3:27])[CH3:28].[CH:2]1([C:6](=[O:16])[O:30][CH3:9])[CH2:10][CH2:21][CH2:19][N:23]1[C:20]1=[CH:12][CH2:5][CH2:22][CH2:15][CH2:7]1>>[C:1]([O:14][C:29]([O-:11])=[N:25][CH:13]([c:8]1[cH:3][cH:17][cH:24][cH:18][cH:4]1)[CH:12]1[CH2:5][CH2:22][CH2:15][CH2:7][C:20]1=[N+:23]1[CH:2]([C:6](=[O:16])[O:30][CH3:9])[CH2:10][CH2:21][CH2:19]1)([CH3:26])([CH3:27])[CH3:28]", "epd": [["LP-/Pi+", [23], [20, 23]], ["Pi-/Sigma+", [12, 20], [12, 13]], ["Pi-/Pi+", [13, 25], [25, 29]], ["Pi-/LP+", [29, 11], [11]]]}
{"reaction_name": "Conjugate addition to a coumarin / α-pyrone system", "rsmi": "[CH2:1]1[CH2:19][N+:29]2([CH2:26][c:10]3[cH:7][c:24]4[cH:6][cH:5][cH:25][cH:13][c:22]4[o:17][c:8]3=[O:16])[CH2:20][CH2:2][N:27]1[CH2:3][CH2:21]2.[CH:4]1=[CH:9][c:11]2[cH:15][cH:14][cH:28][cH:12][c:18]2[CH:30]1[Na:23]>>[CH2:1]1[CH2:19][N+:29]2([CH2:26][C:10]3=[C:8]([O-:16])[O:17][c:22]4[cH:13][cH:25][cH:5][cH:6][c:24]4[CH:7]3[CH:30]3[CH:4]=[CH:9][c:11]4[cH:15][cH:14][cH:28][cH:12][c:18]43)[CH2:20][CH2:2][N:27]1[CH2:3][CH2:21]2.[Na+:23]", "epd": [["Sigma-/Sigma+", [30, 23], [30, 7]], ["Pi-/Pi+", [7, 10], [10, 8]], ["Pi-/LP+", [8, 16], [16]]]}
